US07714126B2
A mixture of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (1.58 g, 6.14 mmol), 6-morpholin-4-yl-pyridin-3-ylamine (1.0 g, 5.58 mmol), N-hydroxybenzotriazole (1.27 g, 8.37 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.6 g, 8.37 mmol) in anhydrous dichloromethane (20 mL) was stirred at room temperature overnight. After the reaction was complete, solvent was evaporated. The resulted mixture was mixed with water and extracted twice with ethyl acetate. The organic layers were collected, combined, washed with brine, dried over sodium sulfate, and then concentrated to give a solid. The crude product was purified by flash chromatography (Merck silica gel 60, 230-400 mesh, 0%-100% ethyl acetate in hexane) to gave 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide (1.15 g, 50%) as an off-white solid. LCMS calcd for C20H17F3N4O3 (m/e) 418, obsd 419 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 6.14 mmol, 1.58 g | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 6-morpholin-4-yl-pyridin-3-ylamine | 5.58 mmol, 1.0 g | N1(CCOCC1)C1=CC=C(C=N1)N | C9H13N3O
reactant | N-hydroxybenzotriazole | 8.37 mmol, 1.27 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 8.37 mmol, 1.6 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide | 1.15 g, 50% | N1(CCOCC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C20H17F3N4O3
